US08980877B2
(E)-3-[1′-(2-Phenyl-ethyl)-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide (180 mg, 0.39 mmol) in DCM (7 ml) was treated with 4 M HCl in dioxane (1 ml) as described in Example 30, Step C, giving (E)-3-[1′-(2-phenyl-ethyl)-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-hydroxy-acrylamide (131 mg, hydrochloride salt) as a white solid.

reactant | (E)-3-[1′-(2-Phenyl-ethyl)-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 0.39 mmol, 180 mg | C1(=CC=CC=C1)CCN1CC2(C1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)NOC2OCCCC2 | C27H30N2O5
reactant | HCl | 4 M | Cl | ClH
solvent | DCM | 7 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | (E)-3-[1′-(2-phenyl-ethyl)-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-hydroxy-acrylamide | 131 mg | C1(=CC=CC=C1)CCN1CC2(C1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)NO | C22H22N2O4
